US05352655
In 15 ml of dichloromethane containing 1.3 g of pyridine and 0.53 g of N-ethyldiisopropylamine, 2 ml of a dichloromethane solution containing 0.93 g of 2-chloro-2-phenylacetyl chloride were added dropwise to 1.0 g of N-[1-methyl-1-(3,5-dichlorophenyl)ethyl]-2-propenylamine at ice subzero temperature. Afterward, the solution was stirred at room temperature for 1 hour, and then poured into water, followed by extraction with ethyl acetate. The resultant extract was washed with a saturated aqueous sodium bicarbonate solution, and then dried over anhydrous magnesium sulfate. After concentration, column chromatography was done to obtain 1.2 g of the desired N-[1-methyl-1-(3,5dichlorophenyl)ethyl]-N-(2-propenyl)-2-chloro-2-phenylacetamide.

reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | N-ethyldiisopropylamine | 0.53 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2-chloro-2-phenylacetyl chloride | 0.93 g | ClC(C(=O)Cl)C1=CC=CC=C1 | C8H6Cl2O
reactant | N-[1-methyl-1-(3,5-dichlorophenyl)ethyl]-2-propenylamine | 1.0 g | CC(C)(C1=CC(=CC(=C1)Cl)Cl)NCC=C | C12H15Cl2N
solvent | dichloromethane | 15 ml, 1.3 g | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | N-[1-methyl-1-(3,5dichlorophenyl)ethyl]-N-(2-propenyl)-2-chloro-2-phenylacetamide | 1.2 g | CC(C)(C1=CC(=CC(=C1)Cl)Cl)N(C(C(C1=CC=CC=C1)Cl)=O)CC=C | C20H20Cl3NO
